US07495103B2
To a mixture of DMF (35 mL) and MeI (74.6 g, 0.53 mol) in water (35 mL) and THF (400 mL) was added dimethyl-(6-nitro-1H-indol-3-ylmethyl)-amine (23 g, 0.105 mol). After the reaction mixture was refluxed for 10 min, potassium cyanide (54.6 g, 0.84 mol) was added and the mixture was kept refluxing overnight. The mixture was then cooled to room temperature and filtered. The filtrate was washed with brine (300 mL×3), dried over Na2SO4, filtered and concentrated. The residue was purified by column chromatography to give (6-nitro-1H-indol-3-yl)-acetonitrile (B-9-a) (7.5 g, 36%).

reactant | DMF | 35 mL | CN(C)C=O | C3H7NO
reactant | MeI | 0.53 mol, 74.6 g | CI | CH3I
reactant | dimethyl-(6-nitro-1H-indol-3-ylmethyl)-amine | 0.105 mol, 23 g | CN(CC1=CNC2=CC(=CC=C12)[N+](=O)[O-])C | C11H13N3O2
reactant | potassium cyanide | 0.84 mol, 54.6 g | [C-]#N.[K+]
solvent | water | 35 mL | O | H2O
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | (6-nitro-1H-indol-3-yl)-acetonitrile | 7.5 g, 36% | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)CC#N | C10H7N3O2
